US06852717B2
To a 0° C. solution of trimethyl amine (20% solution in water, 3.8 mmol) in 2 mL of dimethylformamide was added 4-(2-chloro-pyrimidin-4-yloxy)-naphthalen-1-ylamine (270 mg, 1 mmol). The deep tan solution was warmed to room temperature for 3 h, during which the initially light suspension became a brown suspension. After this time, tetraethylammonium cyanide (156 mg, 1 mmol) was added all at once to provide a deep amber solution. After 1 h, the reaction was quenched with water, extracted with EtOAc and dried over magnesium sulfate. Column chromatography (10-60% EtOAc-hexanes) provided 142 mg (54%) of 4-(4-amino-naphthalen-1-yloxy)-pyrimidine-2-carbonitrile.

reactant | trimethyl amine | 3.8 mmol | CN(C)C | C3H9N
reactant | 4-(2-chloro-pyrimidin-4-yloxy)-naphthalen-1-ylamine | 1 mmol, 270 mg | ClC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)N | C14H10ClN3O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | tetraethylammonium cyanide | 1 mmol, 156 mg | [C-]#N.C(C)[N+](CC)(CC)CC
product | 4-(4-amino-naphthalen-1-yloxy)-pyrimidine-2-carbonitrile | 142 mg, 54% | NC1=CC=C(C2=CC=CC=C12)OC1=NC(=NC=C1)C#N | C15H10N4O
